US07648983B2
4-(3-Bromo-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]thiazin-2-ylamine
A suspension of 2-[3-(3-bromo-phenyl)-but-2-enyl]-isothiourea hydrochloride (17 g, 52 mmoles) in 12 M HCl (53 mL, 640 mmoles, 12 equiv) is heated to 100° C. After 24 h, the solution is cooled to ambient temperature. The pH of the solution is adjusted to pH 10 with aqueous 2N NaOH and extracted with ethyl acetate. The organic layers are combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give the title compound (70% yield): MS (m/z): 285.0, 287.0 (M+1).

reactant | 2-[3-(3-bromo-phenyl)-but-2-enyl]-isothiourea hydrochloride | 52 mmoles, 17 g | Cl.BrC=1C=C(C=CC1)C(=CCSC(N)=N)C
reactant | HCl | 640 mmoles, 12 M, 53 mL, 12 equiv | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
product | 4-(3-Bromo-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]thiazin-2-ylamine | 70% yield | BrC=1C=C(C=CC1)C1(N=C(SCC1)N)C | C11H13BrN2S
